US07538239B2
2-(2-(p-toluenesulfonyl)amino-5-fluorophenyl)-3-methyl-2-cyclopenten-1-one
0.700 g (3.14 mmol) of 2-(2-amino-5-fluorophenyl)-3-methyl-2-cyclopenten-1-one, 0.298 g (3.76 mmol) of pyridine, 0.598 g (3.76 mmol) of p-toluenesulfonyl chloride, and 3 mL of M.C were loaded to a 20 mL vial, and then reacted for 12 hours. The work-up was the same as in Example 7 (1.000 g, 85%).

reactant | 2-(2-amino-5-fluorophenyl)-3-methyl-2-cyclopenten-1-one | 3.14 mmol, 0.700 g | NC1=C(C=C(C=C1)F)C=1C(CCC1C)=O | C12H12FNO
reactant | pyridine | 3.76 mmol, 0.298 g | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 3.76 mmol, 0.598 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 2-(2-(p-toluenesulfonyl)amino-5-fluorophenyl)-3-methyl-2-cyclopenten-1-one | C1(=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)F)C=1C(CCC1C)=O)C | C19H18FNO3S
